US08729078B2
In a 25 mL round-bottomed flask, 7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (40.9 mg, 284 μmol, Eq: 1.00), 6-tert-butyl-8-fluoro-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-4-yl)phthalazin-1(2H)-one (100 mg, 284 μmol, Eq: 1.00), copper acetate (34.8 mg) and pyridine (44.9 mg, 45.9 μl, 568 μmol, Eq: 2) were combined with dichloroethane to give a dark blue suspension. The reaction mixture was flushed with nitrogen. The reaction mixture was heated to 80° C. and stirred for 16 hr. The reaction was diluted with sat NH4Cl (50 mL) and extracted with EtOAc (3×50 mL). The mixture was separated by flash column using 30-50% EtOAc in hexanes to give the 7-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (42 mg, 31%) as a lyophilized white powder.

reactant | 7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 284 μmol, 40.9 mg | N1=CN=CC2=C1NC=C2C#N | C7H4N4
reactant | 6-tert-butyl-8-fluoro-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-4-yl)phthalazin-1(2H)-one | 284 μmol, 100 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C1=CC=CC=2B(OCC21)O | C19H18BFN2O3
reactant | pyridine | 568 μmol, 45.9 μl, 44.9 mg | N1=CC=CC=C1 | C5H5N
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
catalyst | copper acetate | 34.8 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 7-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 42 mg, 31% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C2=C1N=CN=C2)C#N)CO | C26H21FN6O2
